### PR TITLE
[Merged by Bors] - feat: duality results for the right homology of short complexes

### PR DESCRIPTION
**Pull request by joelriou**
This PR shows duality results for left and right homology of short complexes. From the corresponding result for left homology, it is deduced that a morphism of short complexes which is epi on the left object, iso on the middle object and mono on the right object induces an isomorphism in right homology.

---

- [x] depends on: #6089

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/ShortComplex/RightHomology.lean [hunk 1]
```diff
@@ -891,6 +891,233 @@ noncomputable def fromOpcyclesNatTrans :
...
+to the opcycles of this short complex. -/
+noncomputable def cyclesOpIso [S.HasRightHomology] :
+    S.op.cycles ≅ Opposite.op S.opcycles :=
+  S.rightHomologyData.op.cyclesIso
+
+@[simp]
+lemma leftHomologyMap'_op
+    (φ : S₁ ⟶ S₂) (h₁ : S₁.LeftHomologyData) (h₂ : S₂.LeftHomologyData) :
+    (leftHomologyMap' φ h₁ h₂).op = rightHomologyMap' (opMap φ) h₂.op h₁.op := by
+  let γ : LeftHomologyMapData φ h₁ h₂ := default
```
Comment (TwoFX) [inline Mathlib/Algebra/Homology/ShortComplex/RightHomology.lean:972]: I'm not a huge fan of the `default` here, especially since you have defined a name for this.

```suggestion
  let γ : LeftHomologyMapData φ h₁ h₂ := leftHomologyMapData φ h₁ h₂
```

File: Mathlib/Algebra/Homology/ShortComplex/RightHomology.lean [hunk 2]
```diff
@@ -891,6 +891,233 @@ noncomputable def fromOpcyclesNatTrans :
...
+  simp only [γ.leftHomologyMap'_eq, (γ.op).rightHomologyMap'_eq,
```
Comment (TwoFX) [inline Mathlib/Algebra/Homology/ShortComplex/RightHomology.lean:973]: There are more instances of unneeded parentheses in this file, I'm not going to list them all. You can leave them in if you think that they aid readability.
```suggestion
  simp only [γ.leftHomologyMap'_eq, γ.op.rightHomologyMap'_eq,
```

File: Mathlib/Algebra/Homology/ShortComplex/RightHomology.lean [hunk 3]
```diff
@@ -891,6 +891,233 @@ noncomputable def fromOpcyclesNatTrans :
...
+    LeftHomologyMapData.op_φH]
+
+@[simp]
```
Comment (TwoFX) [inline Mathlib/Algebra/Homology/ShortComplex/RightHomology.lean:976]: I'm surprised that this is a `simp` lemma since it seems to make the goal more complicated. With this `simp` lemma, `simp` can no longer prove `(leftHomologyMap φ).op.unop = leftHomologyMap φ`.

I'm fine with keeping it if you believe that it is a good `simp` lemma, I just wanted to make sure you have thought this through.

File: Mathlib/Algebra/Homology/ShortComplex/RightHomology.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/ShortComplex/RightHomology.lean]: Thanks! I have fixed the parentheses in this file.

File: Mathlib/Algebra/Homology/ShortComplex/RightHomology.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/ShortComplex/RightHomology.lean]: Thanks for the review. It looks indeed better not to make this a simp lemma.

File: Mathlib/Algebra/Homology/ShortComplex/RightHomology.lean [hunk 4]
```diff
@@ -891,6 +891,231 @@ noncomputable def fromOpcyclesNatTrans :
...
+      S₁.rightHomologyOpIso.hom := by
+  dsimp [rightHomologyOpIso, RightHomologyData.rightHomologyIso, rightHomologyMap,
+    leftHomologyMap]
+  simp only [← rightHomologyMap'_comp, comp_id, id_comp, leftHomologyMap'_op]
+
+@[simp]
+lemma rightHomologyMap'_op
+    (φ : S₁ ⟶ S₂) (h₁ : S₁.RightHomologyData) (h₂ : S₂.RightHomologyData) :
+    (rightHomologyMap' φ h₁ h₂).op = leftHomologyMap' (opMap φ) h₂.op h₁.op := by
+  let γ : RightHomologyMapData φ h₁ h₂ := default
```
Comment (TwoFX) [inline Mathlib/Algebra/Homology/ShortComplex/RightHomology.lean:987]:
```suggestion
  let γ : RightHomologyMapData φ h₁ h₂ := rightHomologyMapData φ h₁ h₂
```

**Review by TwoFX — APPROVED** [review]
Thanks!
bors d+

**Comment by joelriou** [comment]
bors merge
